US05645610
7 g (20 mmol) of 2-amino-5-chlorotoluene were dissolved in 10 ml of sulfuric acid at 10° C. to form a reactant solution. 2.05 ml fuming nitric acid were dissolved in 10 ml concentrated sulfuric acid and the resultant acidic solution was added slowly dropwise to the reactant solution. The reactant solution was then stirred for 3 to 4 hours at room temperature and subsequently added to ice. The yellow product crystals were filtered with suction and recrystallized from methanol. 6.4 g (70% of the theoretical yield) of 2-amino-5-chloro-4-nitrotoluene, which melted at 115° C., were obtained.

reactant | 2-amino-5-chlorotoluene | 20 mmol, 7 g | NC1=C(C=C(C=C1)Cl)C | C7H8ClN
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
solvent | sulfuric acid | 10 ml | S(O)(O)(=O)=O | H2O4S
solvent | sulfuric acid | 10 ml | S(O)(O)(=O)=O | H2O4S
product | 2-amino-5-chloro-4-nitrotoluene | NC1=C(C=C(C(=C1)[N+](=O)[O-])Cl)C | C7H7ClN2O2
